US07834190B2
Production of (2S,3S)-3-amino-2-hydroxy-hexanoic cyclopropylamide hydrochloride
N-Cyclopropyl-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxamide (0.10 g, 0.5 mmol), methanol (4 ml) and concentrated hydrochloric acid (0.5 ml, 5.5 mmol) were mixed, and the mixture was stirred at room temperature for 14 hours. The solvent was evaporated away under reduced pressure. Isopropanol (4 ml) was added to the obtained solid, and the mixture was stirred at room temperature for 10 minutes. The crystal was collected by filtration, and was dried under reduced pressure to obtain the title compound as a white solid (0.03 g, yield: 28%).

reactant | N-Cyclopropyl-2-methyl-4-propyl-4,5-dihydro-1,3-oxazole-5-carboxamide | 0.5 mmol, 0.10 g | C1(CC1)NC(=O)C1C(N=C(O1)C)CCC | C11H18N2O2
reactant | hydrochloric acid | 5.5 mmol, 0.5 ml | Cl | ClH
solvent | methanol | 4 ml | CO | CH4O
product | (2S,3S)-3-amino-2-hydroxy-hexanoic cyclopropylamide hydrochloride | 0.03 g, yield: 28% | Cl.C1(CC1)NC([C@H]([C@H](CCC)N)O)=O | InChI=1S/C9H18N2O2.ClH/c1-2-3-7(10)8(12)9(13)11-6-4-5-6;/h6-8,12H,2-5,10H2,1H3,(H,11,13);1H/t7-,8-;/m0./s1
